US07205306B2
3-(5-Bromo-7-chloro-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-[(1S)-1-cyclopropylpropyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 1-[(1S)-1-cyclopropylpropyl]-3,5-dichloro-2(1H)-pyrazinone and 5-bromo-7-chloroindoline as the starting materials. mp 126–127° C.; 1H NMR (300 MHz, CDCl3): δ 7.31 (d, J=1.9 Hz, 1 H), 7.24 (d, J=1.4 Hz, 1 H), 7.01 (s, 1 H), 4.32 (t, J=7.9 Hz, 2 H), 4.08–4.02 (m, 1 H), 3.14 (t, J=8.1 Hz, 2 H), 1.94–1.78 (m, 2 H), 1.05–1.00 (m, 1 H), 0.94 (t, J=7.3 Hz, 3 H), 0.81–0.77 (m, 1 H), 0.54–0.48 (m, 2 H), 0.34–0.30 (m, 1 H); HRMS (ESI) calcd for C18H19N3OBrCl2 (M+H)+: 442.0089; Found m/z 442.0093.

reactant | 1-[(1S)-1-cyclopropylpropyl]-3,5-dichloro-2(1H)-pyrazinone | C1(CC1)[C@H](CC)N1C(C(=NC(=C1)Cl)Cl)=O | C10H12Cl2N2O
reactant | 5-bromo-7-chloroindoline | BrC=1C=C2CCNC2=C(C1)Cl | C8H7BrClN
product | 3-(5-Bromo-7-chloro-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-[(1S)-1-cyclopropylpropyl]-2(1H)-pyrazinone | BrC=1C=C2CCN(C2=C(C1)Cl)C=1C(N(C=C(N1)Cl)[C@@H](CC)C1CC1)=O | C18H18BrCl2N3O
